US06426345B1
A mixture of ethyl 4-hydroxy-3-methoxybenzoate (7.17 g), cyclopentyl bromide (4.7 ml) and potassium carbonate (7.6 g) in N,N-dimethylformamide (70 ml) was stirred at 80° C. for 3 hours. Then the mixture was poured into water and extracted with ethyl acetate twice. The combined organic solution was washed with water and brine, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel column (hexane-ethyl acetate, 4:1) to give ethyl 4-cyclopentyloxy-3-methoxybenzoate (8.58 g) as an oil.

reactant | ethyl 4-hydroxy-3-methoxybenzoate | 7.17 g | OC1=C(C=C(C(=O)OCC)C=C1)OC | C10H12O4
reactant | cyclopentyl bromide | 4.7 ml | C1(CCCC1)Br | C5H9Br
reactant | potassium carbonate | 7.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | ethyl 4-cyclopentyloxy-3-methoxybenzoate | 8.58 g | C1(CCCC1)OC1=C(C=C(C(=O)OCC)C=C1)OC | C15H20O4
